US06352993B1
5-methyl-6-acetoxymethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydrois oquinolin-2-yl)pyrimidine
Acetyl chloride (2.71 μl, 39.6 μmol) and triethylamine(20 μl, 142.6 μmol) were added to a suspension of 5-methyl-6-hydroxymethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (10 mg, 26.4 μmol) in dichloromethane(1 ml) and stirred for 1 day at a room temperature. The reaction mixture was purified with a silica gel column chromatography (ethylacetate/n-hexane=1/1) to give 12 mg of the titled compound.

reactant | Acetyl chloride | 39.6 μmol, 2.71 μl | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 142.6 μmol, 20 μl | C(C)N(CC)CC | C6H15N
reactant | 5-methyl-6-hydroxymethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 26.4 μmol, 10 mg | CC=1C(=NC(=NC1CO)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | C22H23FN4O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 5-methyl-6-acetoxymethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydrois oquinolin-2-yl)pyrimidine | 12 mg | CC=1C(=NC(=NC1COC(C)=O)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | C24H25FN4O2
